US08541588B2
tert-Butyl 4-(4-(5-chloro-2-hydroxyphenyl)pyridin-2-yl)piperazine-1-carboxylate
A mixture of 4-chloro-2-iodophenol (367 mg, 1.44 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine-1-carboxylate (707.5 mg, 1.817 mmol), and sodium carbonate (615.0 mg, 5.802 mmol) in 1,4-dioxane (6.0 mL, 77 mmol) and water (2.0 mL, 110 mmol) was sparged 5 minutes with argon. Tetrakis(triphenylphosphine)palladium(0) (100.0 mg, 0.08654 mmol) was added, the vial was capped, and the reaction mixture was heated at 90° C. After 4 hours, the reaction mixture was cooled to ambient temperature and poured into water. Saturated aqueous ammonium chloride was added, and the mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated onto diatomaceous earth. The residue was purified by automated flash chromatography (24 g SiO2, hexanes to ethyl acetate) to afford the product as an amber oil that solidified on standing (491 mg, 74%).

reactant | 4-chloro-2-iodophenol | 1.44 mmol, 367 mg | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine-1-carboxylate | 1.817 mmol, 707.5 mg | CC1(OB(OC1(C)C)C1=CC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H32BN3O4
reactant | sodium carbonate | 5.802 mmol, 615.0 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 77 mmol, 6.0 mL | O1CCOCC1 | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.08654 mmol, 100.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 110 mmol, 2.0 mL | O | H2O
product | tert-Butyl 4-(4-(5-chloro-2-hydroxyphenyl)pyridin-2-yl)piperazine-1-carboxylate | ClC=1C=CC(=C(C1)C1=CC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C20H24ClN3O3
